US04353921
A. 2-Methyl-1-[(2,6-dimethylphenyl)carbamoylmethyl]-2-imidazoline
To a solution of 10.0 gm. (0.05 M) of 2-chloro-2',6'-acetoxylidide in 100 ml. of nitromethane add 21.35 gm (0.254 M) of lysidine. Stir the solution at room temperature for about 17 hours. Follow the progress of the reaction by thin layer chromatography on silica gel (acetonitrile: ammonium hydroxide: methanol, 85:10:5). At the completion of the reaction, remove the solvent in vacuo, to the residue add 150 ml. of water, adjust the pH to about 7.0 with conc. hydrochloric acid. Extract the resultant solution with 3×100 ml. methylene chloride and discard. Adjust the pH of the water layer to about 11-11.5 with 50% sodium hydroxide. Extract with 4×200 ml. of methylene chloride. Take the combined latter extracts and wash 3×50 ml. of water. Dry the methylene chloride extracts over Na2SO4. Evaporate the solvents to provide the title compound.

reactant | 2-chloro-2',6'-acetoxylidide | 0.05 M | CC1=C(C(=CC=C1)C)NC(=O)CCl | C10H12ClNO
reactant | lysidine | 0.254 M, 21.35 gm | CC1=NCCN1 | C4H8N2
solvent | nitromethane | [N+](=O)([O-])C | CH3NO2
product | 2-Methyl-1-[(2,6-dimethylphenyl)carbamoylmethyl]-2-imidazoline | CC=1N(CCN1)CC(NC1=C(C=CC=C1C)C)=O | C14H19N3O
